US04284631
7-[2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-(2,4-dichlorobenzyloxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 2.0 g.) and tetrahydrofuran (30 ml.) were added to a solution of sodium acetate (4.6 g.) in water (100 ml.), and then the mixture was stirred at room temperature for 5 days. Ethyl acetate and water were added to the reaction mixture, and the aqueous layer was separated. Ethyl acetate and tetrahydrofuran were added to the aqueous solution and adjusted to pH 6.2 with 10% hydrochloric acid. The aqueous layer was separated and adjusted to pH 3.0 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and dried to give 7-[2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino)-acetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.3 g.). m.p. 167° to 193° C. (dec.).

reactant | 7-[2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-(2,4-dichlorobenzyloxyimino)acetamido]-3-cephem-4-carboxylic acid | 2.0 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=C(C=C(C=C1)Cl)Cl)(F)F | C21H14Cl2F3N5O6S2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | sodium acetate | 4.6 g | C(C)(=O)[O-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2,4-dichlorobenzyloxyimino)-acetamido]-3-cephem-4-carboxylic acid | 0.3 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCC1=C(C=C(C=C1)Cl)Cl | C19H15Cl2N5O5S2
